US07612114B2
4-Fluoro-2-(6-methoxynaphthalen-2-yl)phenylamine
Synthesized from (6-methoxynaphthalen-2-yl)boronic acid and 5-fluoro-2-nitrophenyl trifluoromethanesulfonate according to an analogous synthetic method to Example 24, 2-(5-fluoro-2-nitrophenyl)-6-methoxy-1,2,3,4-tetrahydronaphthalene (1.3 g) was used according to an analogous synthetic method to Example 22 to provide the title compound (1.1 g).

reactant | (6-methoxynaphthalen-2-yl)boronic acid | COC=1C=C2C=CC(=CC2=CC1)B(O)O | C11H11BO3
reactant | 5-fluoro-2-nitrophenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C=CC(=C1)F)[N+](=O)[O-])(F)F | C7H3F4NO5S
reactant | 2-(5-fluoro-2-nitrophenyl)-6-methoxy-1,2,3,4-tetrahydronaphthalene | 1.3 g | FC=1C=CC(=C(C1)C1CC2=CC=C(C=C2CC1)OC)[N+](=O)[O-] | C17H16FNO3
product | 4-Fluoro-2-(6-methoxynaphthalen-2-yl)phenylamine | 1.1 g | FC1=CC(=C(C=C1)N)C1=CC2=CC=C(C=C2C=C1)OC | C17H14FNO
